US04716167
A mixture of ethyl 2-amino-7-(2-hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-3-carboxylate (480 mg), ethanol (40 ml), water (5 ml) and 1N sodium hydroxide (5 ml) was heated at 50° C. for 80 minutes, which was then concentrated. The concentrate was dissolved in water, which was made acid with 10% hydrochloric acid. Resulting precipitates were collected by filtration, washed with water, and recrystallized from dimethylformamide-ethanol-water to yield colorless crystals (386 mg) of 2-amino-7-(2-hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano-[2,3-b]pyridine-3-carboxylic acid, m.p. >300° C.

reactant | ethyl 2-amino-7-(2-hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-3-carboxylate | 480 mg | NC1=C(C=C2C(=N1)OC1=C(C2=O)C=C(C=C1)C(CO)C)C(=O)OCC | C18H18N2O5
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 2-amino-7-(2-hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano-[2,3-b]pyridine-3-carboxylic acid | 386 mg | NC1=C(C=C2C(=N1)OC1=C(C2=O)C=C(C=C1)C(CO)C)C(=O)O | C16H14N2O5
